datasets/10k__Tet_Int.csv
SMILES Labelled
"[O-:21][CH:20]2(OCC)C3=C(C(C([NH+:10]2(C))C)[H])C=CC=C3>>[NH:10](C)C(C(C1=C(C=CC=C1)[CH:20](OCC)=[O:21])[H])C  21=20;20,10=10"
"[H]C1C(C(O[C:20](=[O:10])N1C)CCCCCC)CC.[O-:21]C>>[H]C1C(C(O[C:20](N1C)([O-:10])[O:21]C)CCCCCC)CC 21=20;20,10=10"
"C[NH+:10]([H])[C:20]1([NH:21]C)[NH]C(C)C(C8=CC=CC=C8)[O]1.[Cl-]>>[Cl-].C[NH+:21]=[C:20]2[NH]C(C)C(C8=CC=CC=C8)[O]2.C[NH:10][H] 21=20;20,10=10"
"C1=CC=CC=C1C1C(C(O[C:20](=[O:10])N1[H])CC)CC.[O-:21]CC>>C1=CC=CC=C1C1C(C(O[C:20](N1[H])([O-:10])[O:21]CC)CC)CC 21=20;20,10=10"
"[H][S:10]C(CC)C([H])C([H])[S][C:20]([O]C7=CC=CC=C7)=[O+:21]C.[Cl-]>>[Cl-].[H][S+:10](C(CC)C([H])C([H])[S]1)[C:20]1([O:21]C)[O]C7=CC=CC=C7 10=20;20,21=21"
"[O-:21][C:20]2([NH+:10]([H])C(C7=C2C=CC=C7)C)OCC>>[NH:10]([H])C(C(C=CC=C9)=C9[C:20](OCC)=[O:21])C 21=20;20,10=10"
"CCC1C(C(O[C:20](N1C)([O-:10])[Cl:21])C)C1=CC=CC=C1>>CCC1C(C(O[C:20](=[O:10])N1C)C)C1=CC=CC=C1.[Cl-:21] 10=20;20,21=21"
"CC[NH+:10]([H])[C:20]1([NH:21]CC)[NH]C(C)C(CC)[O]1.[Cl-]>>[Cl-].CC[NH+:21]=[C:20]2[NH]C(C)C(CC)[O]2.CC[NH:10][H] 21=20;20,10=10"
"[H][NH+:21]=[C:20]2[NH][CH](CC)[CH]([H])C(CC)[NH]2.CC[NH:10][H].[Cl-]>>[Cl-].CC[NH+:10]([H])[C:20]1([NH:21][H])[NH][CH](CC)C([H])[CH](CC)[NH]1 10=20;20,21=21"
"CCCCCCN([C:20](=[O:10])OCCCCCC)[H].[O-:21]CCCCCC>>CCCCCCN([C:20]([O-:10])(OCCCCCC)[O:21]CCCCCC)[H] 21=20;20,10=10"
"CC1C(C(O[C:20](N1C)([O-:10])[O:21]C1=CC=CC=C1)CC)CCCCCC>>CC1C(C(O[C:20](=[O:10])N1C)CC)CCCCCC.[O-:21]C1=CC=CC=C1 10=20;20,21=21"
"[O:10]([Na])C([H])C(C)C(O)C(C)[C:20](OCC)=[O:21]>>[O-:21][C:20]1(OCC)C(C)C(O)C(C)C([H])[O+:10]1([Na]) 10=20;20,21=21"
"CCCCCCC1C(C(O[C:20](N1CCCCCC)([O-:10])[O:21]C1=CC=CC=C1)C)CCCCCC>>CCCCCCC1C(C(O[C:20](=[O:10])N1CCCCCC)C)CCCCCC.[O-:21]C1=CC=CC=C1 10=20;20,21=21"
"[H][O+:21]=[C:20]2[S][CH]([H])[CH](C)C(CC)[S]2.C[S:10][H].[Cl-]>>[Cl-].C[S+:10]([H])[C:20]1([O:21][H])[S][CH]([H])C(C)[CH](CC)[S]1 10=20;20,21=21"
"CCN([C:20](=[O:10])OC(C(C([O-:21])C)CC)CCCCCC)CCCCCC>>CCN([C:20]1(OC(C(C([O:21]1)C)CC)CCCCCC)[O-:10])CCCCCC 21=20;20,10=10"
"[H][O+:10](C(C9=CC=CC=C9)C([H])C(CC)[O]1)[C:20]1([NH:21]C)[NH]CC.[Cl-]>>[Cl-].[H][O:10]C(C9=CC=CC=C9)C([H])C(CC)[O][C:20]([NH]CC)=[NH+:21]C 21=20;20,10=10"
"[H][O:10]C(C)C(CC)[O][C:20]([O][H])=[NH+:21]C.[Cl-]>>[Cl-].[H][O+:10](C(C)C(CC)[O]1)[C:20]1([NH:21]C)[O][H] 10=20;20,21=21"
"[O-:21][C:20]1([H])[O+:10]([K])C(CCC)C([H])C1O>>[O:10]([K])C(CCC)C([H])C([C:20]([H])=[O:21])O 21=20;20,10=10"
"[H][O+:21]=[C:20]2[O]C(CC)C(CC)[S]2.[H][O:10][H].[Cl-]>>[Cl-].[H][O+:10]([H])[C:20]1([O:21][H])[O]C(CC)C(CC)[S]1 10=20;20,21=21"
"[O-:21][C:20]1(OC)C([H])C(C)=C([H])C(CC)[O+:10]1([Na])>>[O:10]([Na])C(CC)/C([H])=C(C)\C([H])[C:20](OC)=[O:21] 21=20;20,10=10"
"C[S:10][H].C[O+:21]=[C:20]([S]C)[O]C7=CC=CC=C7.[Cl-]>>[Cl-].C[S+:10]([H])[C:20]([O:21]C)([S]C)[O]C7=CC=CC=C7 10=20;20,21=21"
"[O:10]([Na])C([H])C([H])C([H])C(O)[C:20]([H])=[O:21]>>[O-:21][C:20]1([H])C(O)C([H])C([H])C([H])[O+:10]1([Na]) 10=20;20,21=21"
"CCN([C:20]1(OC(C(C([O:21]1)C1=CC=CC=C1)CCCCCC)C)[O-:10])C1=CC=CC=C1>>CCN([C:20](=[O:10])OC(C(C([O-:21])C1=CC=CC=C1)CCCCCC)C)C1=CC=CC=C1 10=20;20,21=21"
"C9=CC=CC=C9[NH+:10]([H])[C:20]([NH:21]C)([O]C)[O]C7=CC=CC=C7.[Cl-]>>[Cl-].C9=CC=CC=C9[NH:10][H].C[NH+:21]=[C:20]([O]C)[O]C7=CC=CC=C7 21=20;20,10=10"
"[H][NH+:10]([H])[C:20]([NH:21]C)([NH][H])[NH]C.[Cl-]>>[Cl-].[H][NH:10][H].C[NH+:21]=[C:20]([NH][H])[NH]C 21=20;20,10=10"
"CCC1C(C(O[C:20](=[O:10])N1C1=CC=CC=C1)C)C.[O-:21]C>>CCC1C(C(O[C:20](N1C1=CC=CC=C1)([O-:10])[O:21]C)C)C 21=20;20,10=10"
"[H][O+:21]=[C:20]2[S][CH](CC)[CH](C)C(CC)[O]2.CC[O:10][H].[Cl-]>>[Cl-].CC[O+:10]([H])[C:20]1([O:21][H])[S][CH](CC)C(C)[CH](CC)[O]1 10=20;20,21=21"
"C1=CC=CC=C1N([C:20]1(OC(C(C([O:21]1)CCCCCC)C)CC)[O-:10])C>>C1=CC=CC=C1N([C:20](=[O:10])OC(C(C([O-:21])CCCCCC)C)CC)C 10=20;20,21=21"
"CC[S+:10]([H])[C:20]1([O:21]C)[S][CH]([H])C([H])[CH](C)[O]1.[Cl-]>>[Cl-].C[O+:21]=[C:20]2[S][CH]([H])[CH]([H])C(C)[O]2.CC[S:10][H] 21=20;20,10=10"
"CCC1C(O[C:20](=[O:10])N1C1=CC=CC=C1)CCCCCC.[O-:21]C1=CC=CC=C1>>CCC1C(O[C:20](N1C1=CC=CC=C1)([O-:10])[O:21]C1=CC=CC=C1)CCCCCC 21=20;20,10=10"
"[H][S+:10](C(C)C(C)C(C8=CC=CC=C8)[S]1)[C:20]1([O:21]C)[S][H].[Cl-]>>[Cl-].[H][S:10]C(C)C(C)C(C8=CC=CC=C8)[S][C:20]([S][H])=[O+:21]C 21=20;20,10=10"
"[H]N([C:20]([O-:10])(OCCCCCC)[O:21]C1=CC=CC=C1)[H]>>[H]N([C:20](=[O:10])OCCCCCC)[H].[O-:21]C1=CC=CC=C1 10=20;20,21=21"
"[H][O+:10](C(C)C([H])C(CC)[NH]1)[C:20]1([NH:21]C)[O][H].[Cl-]>>[Cl-].[H][O:10]C(C)C([H])C(CC)[NH][C:20]([O][H])=[NH+:21]C 21=20;20,10=10"
"[H][S+:10](C([H])C([H])C(C8=CC=CC=C8)[S]1)[C:20]1([O:21][H])[S]C.[Cl-]>>[Cl-].[H][S:10]C([H])C([H])C(C8=CC=CC=C8)[S][C:20]([S]C)=[O+:21][H] 21=20;20,10=10"
"[H][O:10]C(C)C(C)C(C8=CC=CC=C8)[O][C:20]([S]CC)=[O+:21]C.[Cl-]>>[Cl-].[H][O+:10](C(C)C(C)C(C8=CC=CC=C8)[O]1)[C:20]1([O:21]C)[S]CC 10=20;20,21=21"
"CC1C(C(O[C:20](=[O:10])N1CC)CC)C.[O-:21]C>>CC1C(C(O[C:20](N1CC)([O-:10])[O:21]C)CC)C 21=20;20,10=10"
"CCCCCCN([C:20](=[O:10])OC(C(C([O-:21])C1=CC=CC=C1)[H])CCCCCC)CC>>CCCCCCN([C:20]1(OC(C(C([O:21]1)C1=CC=CC=C1)[H])CCCCCC)[O-:10])CC 21=20;20,10=10"
